US04013656
Preparation of pyridylaminomethylenemalonic acid diethyl ester
The reaction vessel was charged with 564 parts of 2-aminopyridine, 1,008 parts malonic acid diethyl ester and 3,110 parts orthoformic acid triethyl ester and heated with stirring at about 130° C. In the course of the reaction the ethanol that formed was distilled out of the reaction mixture through a short column within 4 to 5 hours. Then most of the unreacted orthoformic acid triethyl ester was evaporated from the solution, first at atmospheric pressure and then at 40 mm Hg. After the mixture was cooled, the crystallized pyridylaminomethylenemalonic acid diethyl ester was filtered out and repeatedly washed with alcohol. The filtrate and the washing liquids were combined and, after the distillation process described in Example 1, they were recycled with the next batch. The yield of the above-named product amounted to 96% of the theory with reference to amino-pyridine.

reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | malonic acid diethyl ester | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | orthoformic acid triethyl ester | C(C)OC(OCC)OCC | C7H16O3
solvent | ethanol | C(C)O | C2H6O
product | pyridylaminomethylenemalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=CNC1=NC=CC=C1)=O | C13H16N2O4
